US04963568
Step 5: 4-(2',3'-Dimethoxyphenyl)-3-phenylbutyric acid
4-(2',3'-Dimethoxyphenyl)-3-phenylbutanenitrile (20 g, 71 mmol), from Step 4, was dissolved in 1.5 L of ethanol. Sodium hydroxide (20 g, 0.5 mol) and 200 mL of water were added and the reaction mixture was heated at reflux temperature for 24 h. The solvent was removed in vacuo and 1 L of water plus 1 L of methylene chloride were added to the residue. The layers were separated and the organic layer discarded. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with 3 L of ethyl acetate. The ethyl acetate solution was dried over anhydrous sodium sulfate and concentrated in vacuo to give 21 g (98% yield) of the title compound as an oil. 1H NMR (CDCl3) delta 2.6-2.7 (m, 2H), 2.9 (d, 2H), 3.4-3.5 (m, 1H), 3.72 (s, 3H), 3.82 (s, 3H), 6.6 (dd, 1H), 6.73 (dd, 1H), 6.88 (t, 1H), 7.1-7.3 (m, 5H).

reactant | 4-(2',3'-Dimethoxyphenyl)-3-phenylbutanenitrile | 71 mmol, 20 g | COC1=C(C=CC=C1OC)CC(CC#N)C1=CC=CC=C1 | C18H19NO2
reactant | Sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | ethanol | 1.5 L | C(C)O | C2H6O
product | 4-(2',3'-Dimethoxyphenyl)-3-phenylbutyric acid | 21 g, 98% yield | COC1=C(C=CC=C1OC)CC(CC(=O)O)C1=CC=CC=C1 | C18H20O4
